US05554786
Acetoxylation du cyclopentene A 500 ml three-neck flask is charged with 15 g of cyclopentene (0.22 moles), 150 g of acetic acid, 0.77 g of benzoquinone (7 mmoles) and 80 mg of palladium acetate (0.35 mmoles). The temperature is taken to 50°, then 12 g (0.25 moles) of 70% by weight hydrogen peroxide are introduced in 8 h, and the reaction is allowed to proceed for a further 2 h while maintaining the temperature at 50°. The acetic acid is then distilled (35°, 20×102Pa). The residue is distilled under vacuum (56°-60°, 15×102Pa) to provide cyclopent-2-en-1-yl acetate (13 g, yield 60%). cyclopent-2-en-1-yl acetate

reactant | cyclopentene | C1=CCCC1 | C5H8
reactant | cyclopentene | 0.22 moles, 15 g | C1=CCCC1 | C5H8
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic acid | 150 g | C(C)(=O)O | C2H4O2
catalyst | palladium acetate | 0.35 mmoles, 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | benzoquinone | 7 mmoles, 0.77 g | C1(C=CC(C=C1)=O)=O | C6H4O2
product | cyclopent-2-en-1-yl acetate | 13 g, yield 60% | C(C)(=O)OC1C=CCC1 | C7H10O2
